US07368578B2
A mixture of 4-ethyl 1-tert-butyl 3-hydroxy-1H-pyrazole-1,4-dicarboxylate (30.75 g), chloromethyl methyl ether (4.56 mL), N,N-diisopropylethylamine (11.9 mL) and tetrahydrofuran (150 mL) was stirred at room temperature for 2 hrs. The reaction mixture was poured into saturated aqueous sodium hydrogen carbonate, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:9-1:2, v/v) to give 4-ethyl 1-tert-butyl 3-(methoxymethoxy)-1H-pyrazole-1,4-dicarboxylate as a pale-yellow oil (3.52 g, yield 20%).

reactant | 4-ethyl 1-tert-butyl 3-hydroxy-1H-pyrazole-1,4-dicarboxylate | 30.75 g | OC1=NN(C=C1C(=O)OCC)C(=O)OC(C)(C)C | C11H16N2O5
reactant | chloromethyl methyl ether | 4.56 mL | COCCl | C2H5ClO
reactant | N,N-diisopropylethylamine | 11.9 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 4-ethyl 1-tert-butyl 3-(methoxymethoxy)-1H-pyrazole-1,4-dicarboxylate | 3.52 g, yield 20% | COCOC1=NN(C=C1C(=O)OCC)C(=O)OC(C)(C)C | C13H20N2O6
